US07713994B2
4-(1H-Imidazol-4-yl)aniline
A suspension of 4-(4-nitro-phenyl)-1H-imidazole (50 g, 0.2646 mol), 5% Pd/C (6 g) in 600 mL of methanol is hydrogenated at 7 psi of hydrogen at room temperature. After 1 h, the pressure of hydrogen remained unchanged, the mixture is filtered through a Celite cake. The filtrate is evaporated to give a red residue. After drying at high vacuum overnight, 43.2 g of a beige foam is isolated. It is hydroscopic, and sensitive to light and air.

reactant | 4-(4-nitro-phenyl)-1H-imidazole | 0.2646 mol, 50 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=CNC1 | C9H7N3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 600 mL | CO | CH4O
catalyst | Pd/C | 6 g | [Pd] | Pd
product | 4-(1H-Imidazol-4-yl)aniline | 43.2 g | N1C=NC(=C1)C1=CC=C(N)C=C1 | C9H9N3
